US06727264B1
N-(3-{1-[3-(1,2-DIPHENYL-1H-INDOL-3-YL)PROPYL]-4-PIPERIDINYL}PHENYL)-2-METHYLPROPANAMIDE:
A mixture of 1,1-diphenylhydrazine hydrochloride (10.3 mg, 0.0470 mmol), 2-methyl-N-{3-[1-(5-oxo-5-phenylpentyl)-4-piperidinyl]phenyl}propanamide (14.7 mg, 0.0362 mmol), ZnCl2 (14.8 mg, 0.109 mmol), and HOAc (0.500 mL) was heated for 4 h at 80° C. The resulting crude mixture was diluted with water (10 mL), the aqueous layer was neutralized with saturated K2CO3 (10 mL) and extracted with CH2Cl2 (3×20 mL). The combined organic layers were concentrated in vacuo and the residue was purified by preparative TLC plates using 5% of NH3 (2.0 M in methanol) in CH2Cl2 to give the desired product N-(3-{1-[3-(1,2-diphenyl-1H-indol-3-yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide (4.10 mg, 37.0%): 1H NMR (400 MHz, CDCl3) δ 7.71-7.65 (m, 1H), 7.42 (d, 1H, J=7.4 Hz), 7.39 (s, 1H), 7.36-7.15 (m, 15H), 6.94 (d, 1H, J=7.8 Hz), 3.12 (d, 2H, J=11.2 Hz), 2.90 (t, 2H, J=7.8 Hz), 2.59-2.45 (m, 3H), 2.19-1.91 (m, 7H), 1.82 (d, 2H, J=13.5 Hz), 1.24 (d, 6H, J=6.9 Hz); ESMS m/e: 555.3 (M+H)+.

reactant | 1,1-diphenylhydrazine hydrochloride | 0.0470 mmol, 10.3 mg | Cl.C1(=CC=CC=C1)N(N)C1=CC=CC=C1
reactant | 2-methyl-N-{3-[1-(5-oxo-5-phenylpentyl)-4-piperidinyl]phenyl}propanamide | 0.0362 mmol, 14.7 mg | CC(C(=O)NC1=CC(=CC=C1)C1CCN(CC1)CCCCC(C1=CC=CC=C1)=O)C | C26H34N2O2
reactant | HOAc | 0.500 mL | CC(=O)O | C2H4O2
reactant | K2CO3 | 10 mL | C(=O)([O-])[O-].[K+].[K+]
solvent | water | 10 mL | O | H2O
catalyst | ZnCl2 | 0.109 mmol, 14.8 mg | [Cl-].[Cl-].[Zn+2]
product | N-(3-{1-[3-(1,2-diphenyl-1H-indol-3-yl)propyl]-4-piperidinyl}phenyl)-2-methylpropanamide | 4.10 mg, 37.0% | C1(=CC=CC=C1)N1C(=C(C2=CC=CC=C12)CCCN1CCC(CC1)C=1C=C(C=CC1)NC(C(C)C)=O)C1=CC=CC=C1 | C38H41N3O
